US09216999B2
tert-Butyl 3-(2,2,2-trifluoroethoxy)azetidine-1-carboxylate
Sodium hydride (60 wt % dispersion in liquid paraffin, 151 mg, 3.46 mmol) in N,N-dimethylformamide (5 mL) was mixed with tert-butyl 3-hydroxyazetidine-1-carboxylate (500 mg, 2.89 mmol) in N,N-dimethylformamide (3 mL) under cooling with ice and stirred for 30 minutes, and the resulting reaction mixture was mixed with 2,2,2-trifluoroethyl trifluoromethanesulfonate (0.499 mL, 3.46 mmol) under cooling with ice and then stirred at room temperature for 5 hours. After addition of water, the reaction mixture was extracted with ethyl acetate, and the organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=3/1→1/1(v/v)) to give the title compound as a colorless solid (350 mg, yield 48%).

reactant | Sodium hydride | 3.46 mmol, 151 mg | [H-].[Na+]
reactant | tert-butyl 3-hydroxyazetidine-1-carboxylate | 2.89 mmol, 500 mg | OC1CN(C1)C(=O)OC(C)(C)C | C8H15NO3
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 3.46 mmol, 0.499 mL | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | tert-Butyl 3-(2,2,2-trifluoroethoxy)azetidine-1-carboxylate | 350 mg, yield 48% | FC(COC1CN(C1)C(=O)OC(C)(C)C)(F)F | C10H16F3NO3
